US07465795B2
4-amino-N-cyclopropyl-7-fluoro-8-(2,6-dimethoxypyridin-3-yl)cinnoline-3-carboxamide
Using Method A, 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide (178 mg, 0.48 mmol) and 2,6-dimethoxypyridine-3-boronic acid (176 mg, 0.96 mmol) were reacted. After purification the title compound (124 mg, 67% yield) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.02 (d, J=4.8 Hz, 1H), 8.51 (m, 1H), 7.73 (t, J=9.1 Hz, 1H), 7.66 (d, J=8.0 Hz, 1H), 6.51 (d, J=8.0 Hz, 1H), 3.94 (s, 3H), 3.78 (s, 3H), 2.93 (m, 1H), 0.70(m, 4H). MS APCI, m/z=384.

reactant | 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide | 0.48 mmol, 178 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NC1CC1 | C12H10FIN4O
reactant | 2,6-dimethoxypyridine-3-boronic acid | 0.96 mmol, 176 mg | COC1=NC(=CC=C1B(O)O)OC | C7H10BNO4
product | 4-amino-N-cyclopropyl-7-fluoro-8-(2,6-dimethoxypyridin-3-yl)cinnoline-3-carboxamide | 124 mg, 67% yield | NC1=C(N=NC2=C(C(=CC=C12)F)C=1C(=NC(=CC1)OC)OC)C(=O)NC1CC1 | C19H18FN5O3
